US04093811
To a stirred slurry of 10.4 g (0.04 mole) of 2-p-chlorophenyl-4-hydroxymethyl-5-methyl-imidazole hydrochloride in 250 ml of chloroform is added 10 g (0.08 mole) of thionyl chloride in CHCl3. The reaction mixture is warmed to reflux for 6 hours with stirring and then cooled to room temperature. White crystals of 4-chloromethyl-2-p-chlorophenyl-5-methylimidazole hydrochloride in 98% yield, m.p., 224°-226° C (dec.) are obtained. This material is collected and dissolved in 50 ml of warm DMSO and added to a solution of 10 g (0.2 mole) of sodium cyanide in 150 ml of hot DMSO. The mixture is warmed to 60° C for 16 hours and then stirred at room temperature for 16 hours. The reaction mixture is poured over 1 liter of ice and stirred. The tan solid that forms is filtered, collected and air-dried. The crude solid is taken up in 2 liters of ether, charcoaled and filtered. Concentration on a steam bath with hexane addition yields pale green crystals of product. Additional recrystallizations from ether-hexane and methylene chloridehexane gives about 4.5 g (49%) of pale yellow crystals of 2-(p-chlorophenyl)-4-cyanomethyl-5-methyl-imidazole, m.p., 163° - 165° C. Treatment with a mineral acid, e.g., hydrochloric, nitric, sulfuric and the like, affords the corresponding acid addition salts.

reactant | 2-p-chlorophenyl-4-hydroxymethyl-5-methyl-imidazole hydrochloride | 0.04 mole, 10.4 g | Cl.ClC1=CC=C(C=C1)C=1NC(=C(N1)CO)C
reactant | thionyl chloride | 0.08 mole, 10 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloromethyl-2-p-chlorophenyl-5-methylimidazole hydrochloride | 98% yield | Cl.ClCC=1N=C(NC1C)C1=CC=C(C=C1)Cl | InChI=1S/C11H10Cl2N2.ClH/c1-7-10(6-12)15-11(14-7)8-2-4-9(13)5-3-8;/h2-5H,6H2,1H3,(H,14,15);1H
